US08058431B2
4) 6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-one
2.00 g (9.51 mmol) 4,5-Dimethoxy-2-methylamino-benzamide were dissolved in 20 ml dichloromethane and 4.01 g (3.31 ml, 28.5 mmol) benzoyl chloride are added. The mixture was boiled for 90 min. After filtration the residue was dissolved in trichloromethane and saturated sodium bicarbonate solution. The organic solution was dried over magnesium sulfate and evaporated under vacuum.

reactant | 4,5-Dimethoxy-2-methylamino-benzamide | 9.51 mmol, 2.00 g | COC1=CC(=C(C(=O)N)C=C1OC)NC | C10H14N2O3
reactant | benzoyl chloride | 28.5 mmol, 3.31 ml, 4.01 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-one | COC=1C=C2C(N=C(N(C2=CC1OC)C)C1=CC=CC=C1)=O | C17H16N2O3
